US04908363
6.1 g of 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-4-methylimidazole are hydrogenated at normal pressure and room temperature in 100 ml of methanol, 21 ml of 1N hydrochloric acid and 30 ml of water in the presence of palladium-carbon. After 500 ml of hydrogen have been taken up, the mixture is filtered. The filtrate is evaporated to a volume of 50 ml. Then, 50 ml of water are added and the mixture is treated with saturated sodium bicarbonate solution up to a neutral reaction (pH=7). The separated crystals are removed by filtration, and taken up with methylene chloride. The methylene chloride solution is washed once with water, dried and evaporated. The residue is triturated with cold ether. Thereafter the solid is removed by filtration, washed with ether and n-hexane and dried at 60° in a vacuum. There is obtained 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-4-methylimidazole of m.p. 150°-151°.

reactant | 1-(4-hydroxy-3,5-di-tert.-butylbenzylideneamino)-4-methylimidazole | 6.1 g | OC1=C(C=C(C=NN2C=NC(=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H27N3O
reactant | hydrochloric acid | 1N, 21 ml | Cl | ClH
reactant | water | 30 ml | O | H2O
reactant | hydrogen | 500 ml | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 1-(4-hydroxy-3,5-di-tert.-butylbenzylamino)-4-methylimidazole | OC1=C(C=C(CNN2C=NC(=C2)C)C=C1C(C)(C)C)C(C)(C)C | C19H29N3O
